US05237063
2-Amino-4-fluoro-6-trifluoromethoxypyrimidine
8.7 g (0.51 mol) of gaseous ammonia were passed over the course of 1 hour into a stirred mixture of 51 g (0.255 mol) of 2,4-difluoro-6-trifluoromethoxypyrimidine and 200 ml of diethyl ether at -75° to -70° C. The mixture was stirred at -70° C. for 11/2 hours and at room temperature for 1 hour and then concentrated under reduced pressure. The residue was taken up in methylene chloride and the organic phase was extracted with water, dried, concentrated and chromatographed on silica gel with 8:1 petroleum ether/ether, resulting in 38.1 g (75.6% of theory) of the title compound as colorless crystals of melting point 86°-89° C.

reactant | ammonia | 0.51 mol, 8.7 g | N | H3N
reactant | 2,4-difluoro-6-trifluoromethoxypyrimidine | 0.255 mol, 51 g | FC1=NC(=CC(=N1)F)OC(F)(F)F | C5HF5N2O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 2-Amino-4-fluoro-6-trifluoromethoxypyrimidine | NC1=NC(=CC(=N1)F)OC(F)(F)F | C5H3F4N3O
